US08835472B2
N-(1-(4-((4-(Pyrimidin-5-yloxy)phenyl)ethynyl)phenyl)propan-2-yl)acetamide
28.1 mg (0.14 mmol) 5-iodopyrimidine, 40.0 mg (0.14 mmol) N-(1-(4-((4-hydroxy-phenyl)ethynyl)phenyl)propan-2-yl)acetamide (I76.1), 1.30 mg (0.07 mmol) CuI, 1.9 mg (0.14 mmol) N,N-dimethylglycine hydrochloride and 58.7 mg (0.18 mmol) Cs2CO3 are added to 1 mL dioxane. The reaction mixture is stirred at 90° C. for 2 h then filtered through a plug of silica gel and washed with DMF. The filtrate is purified by HPLC (MeOH/H2O/TFA).

reactant | 5-iodopyrimidine | 0.14 mmol, 28.1 mg | IC=1C=NC=NC1 | C4H3IN2
reactant | N-(1-(4-((4-hydroxy-phenyl)ethynyl)phenyl)propan-2-yl)acetamide | 0.14 mmol, 40.0 mg | OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C19H19NO2
reactant | N,N-dimethylglycine hydrochloride | 0.14 mmol, 1.9 mg | Cl.CN(CC(=O)O)C
reactant | Cs2CO3 | 0.18 mmol, 58.7 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | CuI | 0.07 mmol, 1.30 mg | [Cu]I
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-(1-(4-((4-(Pyrimidin-5-yloxy)phenyl)ethynyl)phenyl)propan-2-yl)acetamide | N1=CN=CC(=C1)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C23H21N3O2
